US09290480B2
(4-{acetyl-[3-(2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)propyl]amino}butyl)-[3-(2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)propyl]carbamic acid ethyl ester (Compound 14)
In the above Example 4, hydrochloric acid salt of N-[3-(2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)propyl]-N-{4-[3-(2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)propylamino]butyl}acetamide 3 g (5.3 mmol) and ethyl chloroformate 0.6 mL (6.3 mmol) were used, instead of 3-(3-4-[3-(2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)propylamino]butylaminopropyl)-1H-quinazoline-2,4-dione and acetic anhydride. The same procedure of the above Example 4 was performed to give the title compound of white solid (1.1 g, 34%) in the mix-solvent of pyridine and dichloromethane.

reactant | hydrochloric acid | Cl | ClH
reactant | N-[3-(2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)propyl]-N-{4-[3-(2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)propylamino]butyl}acetamide | 5.3 mmol, 3 g | O=C1NC2=CC=CC=C2C(N1CCCN(C(C)=O)CCCCNCCCN1C(NC2=CC=CC=C2C1=O)=O)=O | C28H34N6O5
reactant | ethyl chloroformate | 6.3 mmol, 0.6 mL | ClC(=O)OCC | C3H5ClO2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | (4-{acetyl-[3-(2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)propyl]amino}butyl)-[3-(2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)propyl]carbamic acid ethyl ester | C(C)OC(N(CCCN1C(NC2=CC=CC=C2C1=O)=O)CCCCN(CCCN1C(NC2=CC=CC=C2C1=O)=O)C(C)=O)=O | C31H38N6O7
